US07560551B2
A solution of 2-(2-chloropyridin-3-yl)acetonitrile (2.0 g, 13 mmol) in THF (5 mL) was slowly added to a suspension of sodium hydride, 60% in mineral oil (1.31 g, 33.0 mmol) in THF (10 mL) at 0° C. The mixture was stirred for 15 minutes, and ethyl formate (1.1 mL, 13 mmol) was slowly added. The mixture was stirred at RT, and monitored by LCMS. Upon completion, the reaction was extracted into EtOAc, washed organics 2×H2O, dried with Mg2SO4, filtered through fritted funnel, and lyophilized to yield 2-(2-chloropyridin-3-yl)-3-oxopropanenitrile as reddish brown solid. The crude was used without further purification. MS m/z=181 [M+1]+. Calc'd for C8H5ClN2O: 180.59.

reactant | 2-(2-chloropyridin-3-yl)acetonitrile | 13 mmol, 2.0 g | ClC1=NC=CC=C1CC#N | C7H5ClN2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | 13 mmol, 1.1 mL | C(=O)OCC | C3H6O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-chloropyridin-3-yl)-3-oxopropanenitrile | ClC1=NC=CC=C1C(C#N)C=O | C8H5ClN2O
